US07553976B2
11.1) 2,6-dimethoxy-4-{[4-(4-nitrophenyl)-1-piperazinyl]carbonyl}-phenol
In a 100 ml flask, 0.99 g (5 mmoles) of syringic acid, 0.74 g (5.5 mmoles) of hydroxybenzotriazol, 1.10 g (5.5 mmoles) of dicyclohexylcarbodiimide and 1.04 g (5 mmoles) of 1-(4-nitrophenyl)piperazine are dissolved in 10 ml of DMF. After agitation at ambient temperature for 7 hours, the mixture is filtered and the precipitate rinsed with 20 ml of DMF followed by 100 ml of chloroform 2 g of a yellow powder is obtained, containing approximately 20% of dicyclohexylurea. The product is used as it is in the following stage.

reactant | syringic acid | 5 mmoles, 0.99 g | C(C1=CC(OC)=C(O)C(OC)=C1)(=O)O | C9H10O5
reactant | hydroxybenzotriazol | 5.5 mmoles, 0.74 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 5.5 mmoles, 1.10 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-(4-nitrophenyl)piperazine | 5 mmoles, 1.04 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | dicyclohexylurea | C(=O)(NC1CCCCC1)NC1CCCCC1 | C13H24N2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2,6-dimethoxy-4-{[4-(4-nitrophenyl)-1-piperazinyl]carbonyl}-phenol | COC1=C(C(=CC(=C1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])OC)O | C19H21N3O6
